US08293768B2
Synthesis of ethyl 3-methyl-5-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiophene-2-carboxylate
Following the procedure as described in Example 29, making variations as required to replace 4-fluorobenzyl bromide with 4-(trifluoromethyl)benzyl bromide to react with ethyl 3-methyl-5-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiophene-2-carboxylate, the title compound was obtained as a yellowish solid in 94% yield: 1H NMR (300 MHz, CDCl3) δ 7.75 (s, 1H), 7.62 (d, J=8.1 Hz, 2H), 7.51 (d, J=8.1 Hz, 2H), 6.95 (s, 1H), 5.07 (s, 2H), 4.32 (q, J=7.1 Hz, 2H), 2.55 (s, 3H), 1.36 (t, J=7.1 Hz, 3H); MS (ES+) m/z 412.2 (M+1).

reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | 4-(trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | ethyl 3-methyl-5-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C=NNC1=O)C(=O)OCC | C10H11N3O3S
product | ethyl 3-methyl-5-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiophene-2-carboxylate | 94% yield | CC1=C(SC(=C1)N1C=NN(C1=O)CC1=CC=C(C=C1)C(F)(F)F)C(=O)OCC | C18H16F3N3O3S
